US05459138
EXAMPLE 15: 2,3-DIHYDRO-4H-PYRIDO[2,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
1 g of 4H-pyrido[2,3-e][1,2,4]thiadiazine 1,1- dioxide is suspended in 30 cm3 of water. A solution of 0.83 g of NaBH4 in 5 cm3 of water is added to the suspension. After stirring for 15 minutes at ambient temperature, the pH of the solution is adjusted to 6.5-7 using dilute HCl. The precipitate obtained is filtered, washed with water and dried. The dried compound is dissolved in 200 cm3 of dichloromethane. The possible insoluble material is removed by filtration. The filtrate is treated with an equal volume of petroleum ether (40°-60° C.) and placed at +4° C. overnight. The crystals obtained are collected on a filter and dried.

reactant | 4H-pyrido[2,3-e][1,2,4]thiadiazine 1,1- dioxide | 1 g | S1(N=CNC2=C1C=CC=N2)(=O)=O | C6H5N3O2S
reactant | NaBH4 | 0.83 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 30 cm3 | O | H2O
solvent | water | 5 cm3 | O | H2O
product | 2,3-DIHYDRO-4H-PYRIDO[2,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | S1(NCNC2=C1C=CC=N2)(=O)=O | C6H7N3O2S
